US08106090B2
[(1R,2S)-1-Benzyl-3-([2S]-2-ethylcarbamoyl-pyrrolidin-1-yl)-2-hydroxy-propyl]-carbamic acid tert-butyl ester
Using general procedure 1 and purification method D with [(1R)-1-{(2R)-oxiran-2-yl}-2-phenyl-ethyl]carbamic acid tert-butylester (0.10 g, 0.38 mmol) and (S)-proline ethyl amide (0.108 g, 0.76 mmol) gives the title compound.

reactant | [(1R)-1-{(2R)-oxiran-2-yl}-2-phenyl-ethyl]carbamic acid tert-butylester | 0.38 mmol, 0.10 g | C(C)(C)(C)OC(N[C@H](CC1=CC=CC=C1)[C@H]1OC1)=O | C15H21NO3
reactant | (S)-proline ethyl amide | 0.76 mmol, 0.108 g | C(C)NC([C@H]1NCCC1)=O | C7H14N2O
product | [(1R,2S)-1-Benzyl-3-([2S]-2-ethylcarbamoyl-pyrrolidin-1-yl)-2-hydroxy-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]([C@H](CN1[C@@H](CCC1)C(NCC)=O)O)CC1=CC=CC=C1)=O | C22H35N3O4
